US08802664B2
To a solution of 4-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)-methyl]phenylethynyl}piperidine-1-carboxylic acid tert-butyl ester (160 mg) in 1,2-dichloroethane (10 mL) are added phenol (940 mg) and chlorotrimethylsilane (1.26 mL). The reaction mixture is heated to 100° C. for 30 minutes. Volatiles are removed under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol/ammonia from 100/0/0 to 85/15/1.5) to afford 2-[(1-methylpiperidin-4-yloxy)(3-piperidin-4-ylethynyl-phenyl)methyl]-1H-benzimidazole.

reactant | 4-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)-methyl]phenylethynyl}piperidine-1-carboxylic acid tert-butyl ester | 160 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=CC(=CC=C1)C(OC1CCN(CC1)C)C1=NC2=C(N1)C=CC=C2 | C32H40N4O3
reactant | phenol | 940 mg | C1(=CC=CC=C1)O | C6H6O
reactant | chlorotrimethylsilane | 1.26 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 2-[(1-methylpiperidin-4-yloxy)(3-piperidin-4-ylethynyl-phenyl)methyl]-1H-benzimidazole | CN1CCC(CC1)OC(C1=NC2=C(N1)C=CC=C2)C2=CC(=CC=C2)C#CC2CCNCC2 | C27H32N4O
